US07790737B2
A solution of 2-chloro-6-methylnicotinic acid (1.00 g, 5.83 mmol) in tetrahydrofuran (10 mL) was successively added with N,O-dimethylhydroxyamine hydrochloride (910 mg, 9.33 mmol), N,N-diisopropylethylamine (3.00 g, 23.2 mmol) and DEPC (1.43 g, 8.77 mmol) on an ice bath, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain 2-chloro-N-methoxy-N,6-dimethylpyridine-3-carboxyamide as colorless solid.

reactant | 2-chloro-6-methylnicotinic acid | 5.83 mmol, 1.00 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | N,O-dimethylhydroxyamine hydrochloride | 9.33 mmol, 910 mg | Cl.CNOC
reactant | N,N-diisopropylethylamine | 23.2 mmol, 3.00 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DEPC | 8.77 mmol, 1.43 g | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-chloro-N-methoxy-N,6-dimethylpyridine-3-carboxyamide | ClC1=NC(=CC=C1CC(=O)N(C)OC)C | C10H13ClN2O2
